US06521643B1
To a suspension of 2-bromo-4-nitropyridine (1.0 g) in ethanol (5 ml) was added a solution of sodium ethoxide in ethanol (20%, 2 ml), and the resultant mixture was stirred at 85° C. for 1.5 hours. After cooling, the mixture was diluted with dichloromethane and washed with water and brine. The separated organic layer was dried over sodium sulfate and evaporated under reduced pressure to give 2-bromo-4-ethoxypyridine (927 mg).

reactant | 2-bromo-4-nitropyridine | 1.0 g | BrC1=NC=CC(=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-4-ethoxypyridine | 927 mg | BrC1=NC=CC(=C1)OCC | C7H8BrNO
